US04182758
Formic acid (2.0 ml.) was added dropwise to acetic anhydride (2.45 g.) at ambient temperature with stirring. After the stirring was continued at the same temperature for 30 minutes, 3-(N-hydroxyamino)propylphosphonic acid (3.10 g.) was added to the mixture. The reaction mixture was stirred for an hour and concentrated under reduced pressure to give a residue, which was dissolved in water (25 ml.) To the aqueous solution was added ethylenediamine (0.60 g.). The mixture was concentrated under reduced pressure to give a residue, which was dissolved in water. The aqueous solution was concentrated under reduced pressure to give a residue, and to the residue was added ethanol (30 ml.) to give crystals. The crystals were separated by filtration and washed twice with ethanol (10 ml.) to give crystalline ethylendiamine bis[3-(N-formyl-N-hydroxyamino)propylphosphonate] (3.95 g.), a part (3 g.) of which was recrystallized from 90% aqueous methanol to give needles (1 g.) of the same object compound.

reactant | Formic acid | 2.0 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 2.45 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(N-hydroxyamino)propylphosphonic acid | 3.10 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | ethylenediamine | 0.60 g | C(CN)N | C2H8N2
solvent | water | 25 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethylendiamine bis[3-(N-formyl-N-hydroxyamino)propylphosphonate] | 3.95 g | C(=O)N(O)CCCP1(ON2CCN(O1)OP(O2)(=O)CCCN(O)C=O)=O | C10H20N4O10P2
